US07906546B2
To a stirred solution of 1.34 g (4.5 mmol) of benzenesulfonyl-(3-oxo-cyclopentyl)-acetic acid methyl ester in 15 mL of DMF at 0° C., 199 mg (5.0 mmol, 1.1 eq) of NaH (60%) were added. The reaction mixture was stirred at this temperature for one hour, and 2.14 g (6.75 mmol, 1.5 eq) of N-fluorobenzenesulfonimide were added. After 2 hours at RT, the reaction mixture was poured into water and extracted with EtOAc. The combined organic phases were dried over Na2SO4, filtered and evaporated. The resulting two diastereomers were separated by column chromatography on silica gel with heptane/EtOAc (from 2:1 to 2:1) yielding 0.40 g (28%) of (RS,SR)-benzenesulfonyl-fluoro-(3-oxo-cyclopentyl)-acetic acid methyl ester as a white solid, MS: 332 (MNH4+) and 0.52 g (37%) of (RR,SS)-benzenesulfonyl-fluoro-(3-oxo-cyclopentyl)-acetic acid methyl ester as a white solid, MS: 332 (MNH4+).

reactant | benzenesulfonyl-(3-oxo-cyclopentyl)-acetic acid methyl ester | 4.5 mmol, 1.34 g | COC(C(C1CC(CC1)=O)S(=O)(=O)C1=CC=CC=C1)=O | C14H16O5S
reactant | NaH | 5.0 mmol, 199 mg, 1.1 eq | [H-].[Na+]
reactant | N-fluorobenzenesulfonimide | 6.75 mmol, 2.14 g, 1.5 eq | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
reactant | water | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (RS,SR)-benzenesulfonyl-fluoro-(3-oxo-cyclopentyl)-acetic acid methyl ester | 0.40 g, 28% | COC(C(C1CC(CC1)=O)(F)S(=O)(=O)C1=CC=CC=C1)=O | C14H15FO5S
